US05686486
1,2-Diphenylethanol
To a stirring suspension of 1.20 g of lithium aluminum hydride in 100 mL of diethyl ether under an argon atmosphere at 0° C. Is slowly added a solution of 5.50 g of commercially available deoxybenzoin in 25.0 mL of diethyl ether. After 0.5 hours the grey suspension is warmed to room temperature. After 1 hour the reaction mixture is re-cooled to 0° C. and slowly treated with 1.25 mL of water followed by 5.50 mL of 1N sodium hydroxide. After 0.5 hour the resulting white precipitant is filtered through a pad of magnesium sulfate with diethyl ether washings. The filtrate is concentrated under reduced pressure to afford 5.50 g of the title product as off-white crystals. This product may be used directly in the next reaction without further purification.

reactant | lithium aluminum hydride | 1.20 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | deoxybenzoin | C1(=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C14H12O
reactant | water | 1.25 mL | O | H2O
reactant | sodium hydroxide | 1N, 5.50 mL | [OH-].[Na+]
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 25.0 mL | C(C)OCC | C4H10O
product | 1,2-Diphenylethanol | 5.50 g | C1(=CC=CC=C1)C(CC1=CC=CC=C1)O | C14H14O
